US07960369B2
A mixture of (2,6-dimethylphenyl)[4-(1,3-dioxolan-2-yl)phenyl]methanol (7.10 g), chlorotrimethylsilane (10.8 g), sodium iodide (15.0 g) and acetonitrile (50 mL) was stirred at 50° C. for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with 10% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with ethyl acetate-hexane (gradient of 1:9 to 7:3 by volume ratio) to give 4-(2,6-dimethylbenzyl)benzaldehyde as pale-yellow crystals.

reactant | (2,6-dimethylphenyl)[4-(1,3-dioxolan-2-yl)phenyl]methanol | 7.10 g | CC1=C(C(=CC=C1)C)C(O)C1=CC=C(C=C1)C1OCCO1 | C18H20O3
reactant | chlorotrimethylsilane | 10.8 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium iodide | 15.0 g | [I-].[Na+]
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-(2,6-dimethylbenzyl)benzaldehyde | CC1=C(CC2=CC=C(C=O)C=C2)C(=CC=C1)C | C16H16O
